US06277987B1
A solution of the title I compound, (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester (0.96 g, 1.69 mmol) in TFA (10 mL, 130 mmol) is stirred at RT for 2.5 h. The solution is concentrated under reduced pressure to give a white solid which is triturated from 20 mL of diethyl ether, collected by filtration and dried to give 837 mg (97%) of (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid as a white solid: m.p. 179-181° C.; NMR(1:100 CD3OD/CDCl3) 1.65-1.86 (m, 4H), 3.63 (t, 3H, J=6.4), 3.93 (t, 3H, J=6.4), 7.39 (d, 2H, J=8.6), 7.47 (d, 2H, J=8.6), 7.60 (d, 2H, J=8.4), 7.65-7.68 (m, 2H), 7.76-7.79 (m, 2H), 7.86 (d, 2H, J=8.4); IR 1772, 1708, 1340, 1153; ESI-MS 511 (M−−1), 513 (M++1).

reactant | (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester | 1.69 mmol, 0.96 g | C(C)(C)(C)OC([C@@H](CCCN1C(C2=CC=CC=C2C1=O)=O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C29H29ClN2O6S
reactant | TFA | 130 mmol, 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid | 837 mg, 97% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)CCCN1C(C2=CC=CC=C2C1=O)=O | C25H21ClN2O6S
